US05211739
a. Preparation of 1-(N,N-Diethylcarbamoyl)-3-[(N,N-Diethylcarbamoyl)thio]-1,2,4-Triazole
To a flask was added 17.17 g of 1,2,4-triazole-3-thiol and 200 ml of dry tetrahydrofuran. The mixture was stirred under nitrogen at room temperature and 43 ml of diethylcarbamoyl chloride was quickly added dropwise. The mixture was cooled to between 0° C. and 5° C. Dimethylaminopyridine, one gram, was added followed by the slow dropwise addition of 47.4 ml of triethyl amine while maintaining the reaction temperature between 0° C. and 5° C. until all the triethyl amine was added. The mixture became thick and was allowed to warm to room temperature, then was refluxed at 70° C. for about 20 minutes. After the mixture was cooled to room temperature, the volatiles were evaporated off to leave an oily residue. Water, 100 ml, was added to the residue which was then extracted twice with 100 ml portions of ethyl acetate. The ethyl acetate layer was dried using magnesium sulfate and concentrated to a pale yellow solid which was dried thoroughly under vacuum to yield 31.03 g of pale yellow solid.

reactant | 1,2,4-triazole-3-thiol | 17.17 g | N1N=C(N=C1)S | C2H3N3S
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
reactant | diethylcarbamoyl chloride | 43 ml | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | Dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | Water | O | H2O
solvent | triethyl amine | C(C)N(CC)CC | C6H15N
solvent | triethyl amine | 47.4 ml | C(C)N(CC)CC | C6H15N
product | 1-(N,N-Diethylcarbamoyl)-3-[(N,N-Diethylcarbamoyl)thio]-1,2,4-Triazole | 31.03 g | C(C)N(C(=O)N1N=C(N=C1)SC(N(CC)CC)=O)CC | C12H21N5O2S
